US05935981
1-Amino-1-(4-chlorobenzyl)amino-2-nitroethylene (Compound 69)
To 2.59 g (0.01 mole) of 1-(4-chlorobenzyl)amino-1-methylthio- 2-nitroethylene were added 45 ml of EtQH, 10 ml of THF and 1.02 g of 25% aqueous ammonia and the mixture was stirred at an external temperature of 60° C. for 5.5 hours. During this period, 1.02 g each of 25% aqueous ammonia was added after 1, 2 and 3 hours of reaction. The reaction mixture was ice-cooled and stirred, whereupon crystals separated out. The crystals were collected by filtration, washed with EtOH and ether in that order, and dried. The procedure gave 1.11 g of the title compound as white crystals.

reactant | 1-(4-chlorobenzyl)amino-1-methylthio- 2-nitroethylene | 0.01 mole, 2.59 g | ClC1=CC=C(CNC(=C[N+](=O)[O-])SC)C=C1 | C10H11ClN2O2S
reactant | ammonia | 1.02 g | N | H3N
reactant | ammonia | 1.02 g | N | H3N
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 1-Amino-1-(4-chlorobenzyl)amino-2-nitroethylene | 1.11 g | NC(=C[N+](=O)[O-])NCC1=CC=C(C=C1)Cl | C9H10ClN3O2
